US05703246
1,3-Diphenyl-2,3-epoxypropane
Using the method of Example 36 with phenylacetaldehyde but using (1 mmol) of dimethyl sulfide gave the title compound in 80% yield as a clear oil. δH (CDCl3, 250 MHz): 7.3-7.1 (10H,m), 3.55 (1H,d,J=2.0 Hz), 3.05 (1H, dt,J=6.0 Hz,J=2.0 Hz), 2.80 (2H,d,J=6.0 Hz)ppm.

reactant | phenylacetaldehyde | C1(=CC=CC=C1)CC=O | C8H8O
reactant | dimethyl sulfide | 1 mmol | CSC | C2H6S
product | 1,3-Diphenyl-2,3-epoxypropane | 80% yield | C1(=CC=CC=C1)CC1C(O1)C1=CC=CC=C1 | C15H14O
